US07642264B2
4-(4-Chloro-phenyl)-2-(3-pyridin-3-yl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-(3-bromo-phenyl)-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine (example E.4) (0.21 g, 0.5 mmol) and commercially available 3-pyridineboronic acid (0.08 g, 0.65 mmol) according to the general procedure VI. Obtained as a white solid (0.12 g, 57%). MS (ISP) 412.3 [(M+H)+]; mp 162° C.

reactant | 2-(3-bromo-phenyl)-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine | 0.5 mmol, 0.21 g | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C(F)(F)F | C17H9BrClF3N2
reactant | 3-pyridineboronic acid | 0.65 mmol, 0.08 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 4-(4-Chloro-phenyl)-2-(3-pyridin-3-yl-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C1=CC(=CC=C1)C=1C=NC=CC1 | C22H13ClF3N3
